datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]CC)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C)CCCCCC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H]C1C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1.[O-:21]CC>>[H]C1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C1=CC=CC=C1 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.[H][S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(CC)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(CC)C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[O-:10]C(CC)/C([H])=C([C:20](OCC)=[O:21])/[H]>>[O-:21][C:20]1(OCC)[O:10]C(CC)C([H])=C1[H] 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C([H])C([H])C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C([H])C([H])C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][S:10]C(CC)C([H])[S][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])[S]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].CC[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(C)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[NH:10](C)C(CC)C([H])C(C)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(C)C([H])C(CC)[NH+:10]1(C) 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[O:10]([Na])C([H])/C(C)=C([C:20](C)=[O:21])/[H]>>[O-:21][C:20]1(C)[O+:10]([Na])C([H])C(C)=C1[H] 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC)C)CCCCCC>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC)C)CCCCCC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[S]C.[Cl-]>>[Cl-].C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[S]C 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C([H])C([H])N1C>>[O:10]([Na])C([H])C([H])N([C:20](OCC)=[O:21])C 21=20;20,10=10"
"C(C(O[C:20](=[O:10])OC1=CC=CC=C1)[H])([O-:21])CC>>C1(C([O:21][C:20](O1)([O-:10])OC1=CC=CC=C1)CC)[H] 21=20;20,10=10"
"C[NH:10][H].CC[NH+:21]=[C:20]([NH][H])[NH][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]CC)([NH][H])[NH][H] 10=20;20,21=21"
"[OH:10]C(CC)C([H])C(C)C(O)[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C(O)C(C)C([H])C(CC)[OH+:10]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C(C)C(C)[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
